US08877782B2
c) 2-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(2,2,2-trifluoro-ethyl)-isonicotinamide
As described for example 8b, 2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-isonicotinic acid (78 mg, 0.3 mmol), instead of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid, was converted, using 2,2,2-trifluoroethylamine instead of methylamine, to the title compound (49 mg, 51%) which was obtained as a white solid. MS: m/e=392.3 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-isonicotinic acid | 0.3 mmol, 78 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC=1C=C(C(=O)O)C=CN1 | C17H14N2O4
reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(2,2,2-trifluoro-ethyl)-isonicotinamide | 49 mg, 51% | CC1=C(C(=NO1)C1=CC=CC=C1)COC=1C=C(C(=O)NCC(F)(F)F)C=CN1 | C19H16F3N3O3
